US09079853B2
1-ethyl-3-(2-hydroxy-5-methoxybenzyl)-5-methyl-2-oxoindolin-3-yl benzoate
This compound was prepared in a similar manner to 3-(2-hydroxy-4-methoxybenzyl)-5-methyl-1-(4-methylpentyl)-2-oxoindolin-3-yl benzoate by reacting 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate with tert-butyl (2-(hydroxymethyl)-4-methoxyphenyl)carbonate. 1H-NMR δ 8.05 (d, 2H), 7.58 (t, 1H), 7.45 (t, 2H), 7.13 (m, 2H), 6.8 (d, 1H), 6.65 (m, 2H), 6.03 (d, 1H), 5.87 (bs, OH), 3.78 (m, 1H), 3.67 (d, 1H), 3.52 (m, 1H), 3.39 (s, 3H), 3.29 (d, 1H), 2.32 (s, 3H), 0.92 (t, 3H). Calculated mass for C26H25NO5 431.17. Observed 454.1 (M+Na).

reactant | 3-(2-hydroxy-4-methoxybenzyl)-5-methyl-1-(4-methylpentyl)-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CCCC(C)C)=O)CC1=C(C=C(C=C1)OC)O | C30H33NO5
reactant | 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC)=O | C18H17NO3
product | 1-ethyl-3-(2-hydroxy-5-methoxybenzyl)-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=C(C=CC(=C1)OC)O | C26H25NO5
